resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.021888
R2 0 n2 0.986156
R3 0 n4 0.996597
R4 n1 n3 1.014208
R5 n1 n5 0.997608
R6 n2 n3 0.992336
R7 n2 n6 1.004671
R8 n3 n7 0.996672
R9 n4 n5 1.016922
R10 n4 n6 0.999646
R11 n5 n7 0.992141
R12 n6 n7 0.983261
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
